US04335142
PREPARATION OF 2-CHLORO-1-(p-CHLOROPHENYLSULFONYL)ETHYL PHENYL SULFIDE
A solution of 29.4 g (0.145 mole) of p-chlorophenyl vinyl sulfone in 50 ml of carbon tetrachloride at 22° was treated with 21.0 g (0.145 mole) of benzenesulfenyl chloride. There was an exotherm to 32°. The solution was removed at reduced pressure and the residue recrystallized from benzene to give product of m.p. 108.5°-109.5° C.

reactant | p-chlorophenyl vinyl sulfone | 0.145 mole, 29.4 g | C(=C)S(=O)(=O)C1=CC=C(C=C1)Cl | C8H7ClO2S
reactant | benzenesulfenyl chloride | 0.145 mole, 21.0 g | C1(=CC=CC=C1)SCl | C6H5ClS
reactant | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-CHLORO-1-(p-CHLOROPHENYLSULFONYL)ETHYL PHENYL SULFIDE | C1(=CC=CC=C1)SC(CCl)S(=O)(=O)C1=CC=C(C=C1)Cl | C14H12Cl2O2S2
